US07612114B2
6-{2-{[4-(2-Diethylaminoethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (30 mg) and 2-chloro-N,N-diethyl acetamide (18 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (22 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 30 mg | OC1=CC=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=C1 | C32H37NO5
reactant | 2-chloro-N,N-diethyl acetamide | 18 mg | ClCC(=O)N(CC)CC | C6H12ClNO
product | 6-{2-{[4-(2-Diethylaminoethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 22 mg | C(C)N(CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C(C)C)C=C1)CC | C33H44N2O3
